US05342959
(a) (R)-(-)-α-(Chloromethyl)-2-nitro-1H-imidazole-1-ethanol
Alternatively, a mixture of 0.42 g (3.7 mmole) of 2-nitroimidazole, 85 mg (0.62 mmole) of anhydrous potassium carbonate, and 5 mL of (R)-(-)-epichlorohydrin is refluxed for 10 minutes then filtered while hot. The filtrate is concentrated and cooled to give a solid. Crystallization from ethanol and further processing as above gives 0.56 g of the product.

reactant | 2-nitroimidazole | 3.7 mmole, 0.42 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | potassium carbonate | 0.62 mmole, 85 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-(-)-epichlorohydrin | 5 mL | C(Cl)[C@H]1CO1 | C3H5ClO
product | (R)-(-)-α-(Chloromethyl)-2-nitro-1H-imidazole-1-ethanol | 0.56 g | ClC[C@@H](CN1C(=NC=C1)[N+](=O)[O-])O | C6H8ClN3O3
